US07435837B2
Treatment of (±)-(6-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (0.280 g, 0.736 mmol) with sodium azide (0.191 g, 2.94 mmol) generally according to the procedure described for Intermediate 98 gave (±)-(6-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl azide. Treatment of the azide with palladium on carbon (0.026 g, 10 wt. %) generally according to the procedure described for Example 1 provided 0.190 g (90%) of (±)-(6-phenyl-2,3-dihydro-1-benzofuran-2-yl)methanamine as a tan solid, hydrobromide salt. mp 218-221° C. Anal. calcd. for C15H15NOHBr: C, 58.84; H, 5.27; N, 4.57. Found: C, 54.80; H, 4.88; N, 4.18.

reactant | (±)-(6-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 0.736 mmol, 0.280 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC(=C2)C2=CC=CC=C2 | C22H20O4S
reactant | sodium azide | 2.94 mmol, 0.191 g | [N-]=[N+]=[N-].[Na+]
product | (±)-(6-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl azide | C1(=CC=CC=C1)C1=CC2=C(CC(O2)CN=[N+]=[N-])C=C1 | C15H13N3O
